US08614220B2
1-(2-Chloro-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A51B9C1Z)
A suspension of 8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (488 mg, 1.0 mmol) and Cs2CO3 (490 mg, 1.5 mmol) was suspended in DMF (1 mL) and treated with 1-bromo-2-chloro-ethane (0.1 mL, 1.2 mmol) at room temperature. After 2 h the reaction mixture was poured into water and filtered, washed with water and dried to give the title compound (529 mg, 96% yield) as a white solid.

reactant | 8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 1.0 mmol, 488 mg | CN1CCN(CC1)C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3)C(=O)N)OC(F)(F)F | C22H23F3N8O2
reactant | Cs2CO3 | 1.5 mmol, 490 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-2-chloro-ethane | 1.2 mmol, 0.1 mL | BrCCCl | C2H4BrCl
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 529 mg, 96% yield | ClCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)N | C24H26ClF3N8O2
